US07968720B2
3-Oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic Acid tert-butyl Ester
A mixture of 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one (50.5 g, 359 mmol) and 1-chloroethyl chloroformate (117 mL, 1.08 mol) in CH2ClCH2Cl (500 mL) was heated to 80° C. for 5 h. The mixture was allowed to cool to rt, and the solvents were removed under reduced pressure. The residue was dried under high vacuum for 3 h, and was added in portions to MeOH (250 mL) over 30 min. The mixture was stirred at 75° C. for 1 h, and allowed to cool to rt. The solvents were removed under reduced pressure. The residue was diluted with Et2O (250 mL), and the mixture was sonicated for 15 min. The mixture was then stirred for 30 min, and filtered. The precipitate was washed with Et2O (125 mL), and dried under high vacuum. The residue was diluted with dioxane (400 mL), and the mixture was cooled to 0° C. Aq. 1M NaOH (400 mL) was added. Boc2O (82.3 g, 377 mmol) was added, and the mixture was stirred overnight while warming up to rt. The mixture was extracted with Et2O (2×). The combined org. extracts were dried over MgSO4, filtered, and the solvents were removed under reduced pressure. Purification of the crude by FC (EtOAc/heptane 3:7) yielded the title compound (59.0 g, 73%). LC-MS: tR=0.83 min.

reactant | 8-methyl-8-aza-bicyclo[3.2.1]octan-3-one | 359 mmol, 50.5 g | CN1C2CC(CC1CC2)=O | C8H13NO
reactant | 1-chloroethyl chloroformate | 1.08 mol, 117 mL | ClC(=O)OC(C)Cl | C3H4Cl2O2
reactant | Boc2O | 377 mmol, 82.3 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
product | 3-Oxo-8-aza-bicyclo[3.2.1]octane-8-carboxylic Acid tert-butyl Ester | 59.0 g, 73% | C(C)(C)(C)OC(=O)N1C2CC(CC1CC2)=O | C12H19NO3
